US07825128B2
21) (2-chloro-5-thiophen-2-yl-pyrimidine-4-yl)-[2-(1H-imidazol-4-yl)-ethyl]-amine
Preparation according to procedures 2 and 3 with the use of 2,4-dichloro-5-iodo-pyrimidine, 2-(1H-imidazol-4-yl)-ethylamine and 4,4,5,5-tetramethyl-2-(2-thienyl)-1,3,2-dioxaborolane.

reactant | 2,4-dichloro-5-iodo-pyrimidine | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | 2-(1H-imidazol-4-yl)-ethylamine | N1C=NC(=C1)CCN | C5H9N3
reactant | 4,4,5,5-tetramethyl-2-(2-thienyl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C=1SC=CC1)C | C10H15BO2S
product | (2-chloro-5-thiophen-2-yl-pyrimidine-4-yl)-[2-(1H-imidazol-4-yl)-ethyl]-amine | ClC1=NC=C(C(=N1)NCCC=1N=CNC1)C=1SC=CC1 | C13H12ClN5S
